US09284306B2
1A. (S)-3-amino-5-(benzyloxymethyl)oxazolidin-2-one
(S)-2-(Benzyloxymethyl)oxirane (2.5 g, 15.23 mmol) was added dropwise to hydrazine mono-hydrate (5.44 g, 107 mmol), previously heated at 90° C. The mixture was refluxed for 30 min, under stirring. The excess of hydrazine hydrate was evaporated under vacuum (8 mbar), at 60° C., for 6 h and then at room temperature, under vigorous magnetic stirring, for 18 h. The obtained sticky colourless oil was dissolved in dry methanol (5 mL) and a solution of sodium methoxide (0.5M in MeOH, 4.57 mL, 2.28 mmol) and then diethyl carbonate (2.16 g, 18.27 mmol) were added dropwise. The mixture was refluxed for 4 h 30 min. Solvent was evaporated and the crude purified by flash silica-gel chromatography (DCM/MeOH=75:1) affording the title compound as a yellow oil that solidified (white solid) on standing (2.074 g, 9.33 mmol). Yield=61%.

reactant | (S)-2-(Benzyloxymethyl)oxirane | 15.23 mmol, 2.5 g | C(C1=CC=CC=C1)OC[C@H]1OC1 | C10H12O2
reactant | hydrazine mono-hydrate | 107 mmol, 5.44 g | O.NN
reactant | sodium methoxide | 2.28 mmol, 0.5M, 4.57 mL | C[O-].[Na+]
reactant | diethyl carbonate | 18.27 mmol, 2.16 g | C(OCC)(OCC)=O | C5H10O3
product | (S)-3-amino-5-(benzyloxymethyl)oxazolidin-2-one | Yield=61% | NN1C(O[C@@H](C1)COCC1=CC=CC=C1)=O | C11H14N2O3
